US05760032
tert-Butyl 3-(3-(4-(3-(2-chlorobenzoyl)-5-ethylthiophen-2-yl)-5-methyl[1,2,4]triazol-3-ylmethyl)ureido)phenylacetate (0.92 g) was dissolved in formic acid (20 ml), and the solution was allowed to stand at room temperature for one day. The reaction mixture was concentrated, and the obtained residue was recrystallized from ethyl acetate and isopropyl ether to give 0.66 g of 3-(3-(4-(3-(2-chlorobenzoyl)-5-ethylthiophen-2-yl)-5-methyl[1,2,4]triazol-3-ylmethyl)ureido)phenylacetic acid.

reactant | tert-Butyl 3-(3-(4-(3-(2-chlorobenzoyl)-5-ethylthiophen-2-yl)-5-methyl[1,2,4]triazol-3-ylmethyl)ureido)phenylacetate | 0.92 g | ClC1=C(C(=O)C2=C(SC(=C2)CC)N2C(=NN=C2C)CNC(NC=2C=C(C=CC2)CC(=O)OC(C)(C)C)=O)C=CC=C1 | C30H32ClN5O4S
solvent | formic acid | 20 ml | C(=O)O | CH2O2
product | 3-(3-(4-(3-(2-chlorobenzoyl)-5-ethylthiophen-2-yl)-5-methyl[1,2,4]triazol-3-ylmethyl)ureido)phenylacetic acid | 0.66 g | ClC1=C(C(=O)C2=C(SC(=C2)CC)N2C(=NN=C2C)CNC(NC=2C=C(C=CC2)CC(=O)O)=O)C=CC=C1 | C26H24ClN5O4S
